US07671192B2
A reaction vessel containing hydrazine hydrate (258 g, 250 ml) was heated to 40-50° C. To the warm mixture 2-chloroadenosine hemihydrate (100 g) was added in portions, maintaining the temperature between 45-55° C. The temperature was kept at this temperature for two hours, and then deionized water (500 ml) was added over a period of 30 minutes, maintaining the temperature at 45-55° C. The mixture was then gradually cooled to 0-5° C. over a period of 3 hours, then stirred at this temperature for a further 30 minutes. The solid was then filtered off, and washed with cold (2-5° C.) deionized water (200 ml), followed by ethanol (400 ml). The solid was dried under vacuum for 12 hours, to provide 2-hydrazinoadenosine.

reactant | hydrazine hydrate | 250 ml, 258 g | O.NN
reactant | 2-chloroadenosine hemihydrate | 100 g | O.ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N.ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N
solvent | water | 500 ml | O | H2O
product | 2-hydrazinoadenosine | N(N)C=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H15N7O4
